US08357688B2
To a mixed solution of 100 mg of 7-[(5-chloro-2,3-dihydro-1H-indol-1-yl)carbonyl]-1-[cyclopropyl(hydroxy)methyl]-8-methyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one and 5 mL of dichloromethane was added 113 mg of Dess-Martin periodinane under ice-cooling. The mixed reaction liquid was returned to room temperature, followed by stirring for 4 hours. To the mixed reaction liquid were added a saturated aqueous sodium thiosulfate solution and chloroform, followed by stirring for a while, and then extracting with chloroform, and the organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. Then, the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform/methanol=100/0 to 97/3). To the obtained solid was added 4 mL of methanol to give a mixed solvent, followed by warming and washing. The precipitate was collected by filtration and dried under reduced pressure to obtain 36 mg of 7-[(5-chloro-2,3-dihydro-1H-indol-1-yl)carbonyl]-1-(cyclopropylcarbonyl)-8-methyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one as a skin-colored solid.

reactant | 7-[(5-chloro-2,3-dihydro-1H-indol-1-yl)carbonyl]-1-[cyclopropyl(hydroxy)methyl]-8-methyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 100 mg | ClC=1C=C2CCN(C2=CC1)C(=O)C=1C=C2NC(C=3N(C2=CC1C)C(=NN3)C(O)C3CC3)=O | C23H20ClN5O3
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
reactant | Dess-Martin periodinane | 113 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-[(5-chloro-2,3-dihydro-1H-indol-1-yl)carbonyl]-1-(cyclopropylcarbonyl)-8-methyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 36 mg | ClC=1C=C2CCN(C2=CC1)C(=O)C=1C=C2NC(C=3N(C2=CC1C)C(=NN3)C(=O)C3CC3)=O | C23H18ClN5O3
